US09085570B2
A mixture of methyl 4-cyanobenzoate (5.0 g, 31.0 mmol) and O,O-diethyl hydrogen dithiophosphate (10.41 g, 62 mmol) in water (100 mL) was stirred at 80° C. for 16 h under N2. The mixture was cooled to 20° C. and filtered. The precipitate was washed with water (50 mL) and dried under vacuum to give crude methyl 4-(aminocarbothioyl)benzoate (5.93 g, 98%) as a yellow powder: mp (water) 181-184° C.; 1H NMR δ 10.04 (br s, 1 H, NH2), 9.65 (br s, 1 H, NH2), 7.83-8.00 (m, 4 H, H-2, H-3, H-5, H-6), 3.88 (s, 3 H, OCH3); MS m/z 196.5 (MH+, 100%). A mixture of the crude benzoate (5.72 g, 29.2 mmol) and dichloroacetone (3.72 g, 29.3 mmol) in anhydrous DMF (50 mL) was stirred at 80° C. under N2 for 16 h. The mixture was cooled to 20° C. and poured into ice/water (400 mL) and stirred for 30 min. The precipitate was filtered, washed with water (30 mL) and dried. The residue was purified by column chromatography, eluting with a gradient (10-20%) of EtOAc/pet. ether, to give benzoate 51 (5.40 g, 69%) as a white powder: mp (EtOAc/pet. ether) 110-111° C.; 1H NMR (CDCl3) δ 8.11 (ddd, J=8.7, 2.0, 1.6Hz, 2 H, H-2, H-6), 8.02 (ddd, J=8.7, 2.0, 1.6Hz, 2 H, H-3, H-5), 7.38 (s, 1 H, H-5′), 4.76 (s, 2 H, CH2Cl), 3.95 (s, 3 H, OCH3); MS m/z 268.6 (MH+, 100%). Anal. calcd for C12H10ClNO2S: C, 53.83; H, 3.76; N, 5.23. Found: C, 53.77; H, 3.72; N, 5.03%.

reactant | methyl 4-cyanobenzoate | 31.0 mmol, 5.0 g | C(#N)C1=CC=C(C(=O)OC)C=C1 | C9H7NO2
reactant | O,O-diethyl hydrogen dithiophosphate | 62 mmol, 10.41 g | P(=S)(OCC)(OCC)S | C4H11O2PS2
solvent | water | 100 mL | O | H2O
product | methyl 4-(aminocarbothioyl)benzoate | 5.93 g, 98% | NC(=S)C1=CC=C(C(=O)OC)C=C1 | C9H9NO2S
